US06352993B1
5,6-dimethyl-2-(piperidin-1-yl)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After piperidine(0.27 ml, 2.7 mmol) and triethylamine(0.38 ml, 2.7 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine(0.5 g, 1.8 mmol) in dimethylformamide, 260 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | piperidine | 2.7 mmol, 0.27 ml | N1CCCCC1 | C5H11N
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine | 1.8 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C)C | C15H16ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(piperidin-1-yl)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 260 mg, Yield: 40.2% | Cl.CC=1C(=NC(=NC1C)N1CCCCC1)N1CC2=CC=CC=C2CC1 | InChI=1S/C20H26N4.ClH/c1-15-16(2)21-20(23-11-6-3-7-12-23)22-19(15)24-13-10-17-8-4-5-9-18(17)14-24;/h4-5,8-9H,3,6-7,10-14H2,1-2H3;1H
